US05595995
3-Pyridylmethyl 1-adamantanecarboxylate
The method followed that described in Example 1, but using 3-pyridylcarbinol (240 mg, 2.2 mmol) in THF (10 ml), n-butyllithium (2.5 M; 0.84 ml, 2.1 mmol) in hexane, and 1-adamantanecarbonyl chloride (397 mg, 2.0 mmol) in THF (2 ml). Chromatography, on elution with petrol-ether-triethylamine 200:50:1, gave the title compound (422 mg, 78%) as an oil. IR νmax 1728 cm-1 ; 1H-NMR (CDCl3) δ1.71 and 1.91 (12H, 2s, adamantyl CH2), 2.02 (3H, s, adamantyl CH), 5.11 (2H, s, OCH2), 7.30 (1H, m, Py 5-H), 7.66 (1H, m, Py 4-H), 8.56 (1H, m. Py 6-H), 8.61 (1H, m, Py 2-H). Anal. Calcd: C, 75.24; H, 7.80; N, 5.16. Found: C, 75.09; H, 7.84; N, 5.03%.

reactant | 3-pyridylcarbinol | 2.2 mmol, 240 mg | N1=CC(=CC=C1)CO | C6H7NO
reactant | n-butyllithium | 2.1 mmol, 2.5 M, 0.84 ml | C(CCC)[Li]
reactant | 1-adamantanecarbonyl chloride | 2.0 mmol, 397 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-Pyridylmethyl 1-adamantanecarboxylate | 422 mg, 78% | C12(CC3CC(CC(C1)C3)C2)C(=O)OCC=2C=NC=CC2 | C17H21NO2
